US03996219
0.01 mol. of 7-[D-2-amino-2-(2-thienyl)acetamido]-3-[[(3-methyl-1,2,4-thiadiazol-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, trifluoroacetate salt (prepared by the procedure of Example 7, but substituting 3-[[(3-methyl-1,2,4-thiadiazol-5-yl)thio]methyl]-7-amino- 8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester in part b) is brought into solution with triethylamine in methylene chloride and 0.015 mol. of [(1-thioxoethyl)thio]acetic acid (prepared as described in U.S. Pat. No. 3,341,518) is added. The reaction mixture is permitted to stand for three hours and worked up according to the procedure of Example 7 to obtain 7-[D-2-[(2-thienyl)-2-[(1-thioxoethyl)amino]acetyl]amino]-3-[[3-methyl-1,2,4-thiadiazol-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid.

reactant | 3-[[(3-methyl-1,2,4-thiadiazol-5-yl)thio]methyl]-7-amino- 8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | CC1=NSC(=N1)SCC1=C(N2C(C(C2SC1)N)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N4O3S3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | [(1-thioxoethyl)thio]acetic acid | S=C(C)SCC(=O)O | C4H6O2S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid | O=C1CC2SCC=C(N12)C(=O)O | C7H7NO3S
